US07713994B2
4-(1-Pyrrolidin-1-yl-ethyl)-phenylamine
LiHMDS (1 mL, 1 M solution in THF, 1.0 mmol) is added to a 25 mL round bottom flask, THF is removed. Toluene (4 mL) is added followed by addition of Pd2(dba)3.CHCl3 (10 mg, 0.01 mmol) and P(tBu)3 (10 mg, 0.05 mmol). The mixture is degassed. 1-[1-(4-Bromo-phenyl)-ethyl]-pyrrolidine (330 mg, 1.3 mmol) in toluene (2 mL) is added to the flask. The resulting mixture is stirred at room temperature overnight. TLC is used to determine complete consumption of starting bromide, the reaction mixture is diluted with ether at this point and poured into dilute HCl (aq). The ether layer is discarded, the aqueous layer is basified with NH4OH and extracted with CH2Cl2. The CH2Cl2 layer is dried and concentrated. The residue is subjected to chromatography to provide the desired product 4-(1-Pyrrolidin-1-yl-ethyl)-phenylamine (60 mg, 24%). 1H NMR (300 MHz, CDCl3) ∂ 7.09-7.13(2H, m), 6.61-6.66 (2H, m), 3.47 (2H, br), 3.11 (1H, q, J=6.6 Hz), 2.52-2.58 (2H, m), 2.33-2.39 (2H, m), 1.73-1.79 (4H, m), 1.38 (3H, d, J=6.9 Hz). MS (ESI): 191 (M+1)+1.

reactant | LiHMDS | 1.0 mmol, 1 M, 1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | CHCl3 | 0.01 mmol, 10 mg | C(Cl)(Cl)Cl | CHCl3
reactant | P(tBu)3 | 0.05 mmol, 10 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 1-[1-(4-Bromo-phenyl)-ethyl]-pyrrolidine | 1.3 mmol, 330 mg | BrC1=CC=C(C=C1)C(C)N1CCCC1 | C12H16BrN
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-Pyrrolidin-1-yl-ethyl)-phenylamine | 60 mg, 24% | N1(CCCC1)C(C)C1=CC=C(C=C1)N | C12H18N2
